US04767760
To a stirred mixture of 10 parts of 1-methylpiperazine in 45 parts of tetrahydrofuran was added dropwise a solution of 6.7 parts of 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetyl chloride in 45 parts of tetrahydrofuran during a period of 5 minutes. Upon complete addition, stirring was continued for 2 hours at room temperature. After evaporation in vacuo, the residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated in vacuo. The residue was boiled in acetonitrile. After cooling, the precipitated product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 4.8 parts (62.8%) of 1-[2-(4-chlorophenyl)-2-[2,6-dichloro-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)phenyl]acetyl]-4-methylpiperazine; mp. 261.5° C. (intermediate 36).

reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetyl chloride | ClC1=C(C(=CC(=C1)N1N=CC(NC1=O)=O)Cl)C(C(=O)Cl)C1=CC=C(C=C1)Cl | C17H9Cl4N3O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[2-(4-chlorophenyl)-2-[2,6-dichloro-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)phenyl]acetyl]-4-methylpiperazine | 62.8% | ClC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C)C1=C(C=C(C=C1Cl)N1N=CC(NC1=O)=O)Cl | C22H20Cl3N5O3
